US07732448B2
0.2 g of 4-(2-butynyloxy)-6-chloro-5-fluoropyrimidine and 0.25 g of 1,2,3,6-tetrahydropyridine were mixed and left for 3 hours at room temperature. The reaction mixture was subjected to silica gel column chromatography to obtain 0.25 g of 1-(6-(2-butynyloxy)-5-fluoropyrimidin-4-yl)-1,2,3,6-tetrahydropyridine (hereinafter, referred to as Compound (53)).

reactant | 4-(2-butynyloxy)-6-chloro-5-fluoropyrimidine | 0.2 g | C(C#CC)OC1=NC=NC(=C1F)Cl | C8H6ClFN2O
reactant | 1,2,3,6-tetrahydropyridine | 0.25 g | N1CCC=CC1 | C5H9N
product | 1-(6-(2-butynyloxy)-5-fluoropyrimidin-4-yl)-1,2,3,6-tetrahydropyridine | 0.25 g | C(C#CC)OC1=C(C(=NC=N1)N1CCC=CC1)F | C13H14FN3O
